US09388172B2
To a round-bottomed flask (5 ml) was added 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)-piperidin-1-yl)methyl)butanoic acid (60 mg, 157 μmol), 6-methylnicotinohydrazide (23.7 mg, 157 μmol) and POCl3 (1.64 g, 1 mL, 10.7 mmol). The reaction mixture was heated to reflux at 110° C. for 4 hr. The crude reaction mixture was allowed to cool to room temperature, poured into ice/water and made basic with a saturated solution of Na2CO3. The reaction mixture was extracted with ethyl acetate, washed with brine and H2O, dried over MgSO4, filtered and concentrated. The resultant residue was purified on a silica column (100% hexane to 60% ethyl acetate/hexane gradient) to afford 12 mg (15%) of 2-methyl-5-(5-{3,3,3-trifluoro-2-[3-(3-trifluoromethyl-phenyl)-piperidin-1-ylmethyl]-propyl}-[1,3,4]oxadiazol-2-yl)-pyridine as an off-white solid. MH+=499.

reactant | 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)-piperidin-1-yl)methyl)butanoic acid | 157 μmol, 60 mg | FC(C(CC(=O)O)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H19F6NO2
reactant | 6-methylnicotinohydrazide | 157 μmol, 23.7 mg | CC1=NC=C(C(=O)NN)C=C1 | C7H9N3O
reactant | POCl3 | 10.7 mmol, 1 mL, 1.64 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-methyl-5-(5-{3,3,3-trifluoro-2-[3-(3-trifluoromethyl-phenyl)-piperidin-1-ylmethyl]-propyl}-[1,3,4]oxadiazol-2-yl)-pyridine | 12 mg, 15% | CC1=NC=C(C=C1)C=1OC(=NN1)CC(C(F)(F)F)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F | C24H24F6N4O
